US09334269B2
To a 40 mL vial charged with tert-butyl 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-5,6-dihydropyridine-1(2H)-carboxylate (500.00 mg, 1617 μmol) was added dioxane (3.2 mL, 1617 μmol), Na2CO3 (3.234 mL, 647 μmol) and 4-bromobenzonitrile (294.3 mg, 1617 μmol). The reaction mixture was purged with nitrogen prior to the addition of PdCl2(dppf)-CH2Cl2 (132.1 mg, 162 μmol). The reaction mixture was heated to 110° C. for 24 h. The dark reaction mixture was cooled to RT and water was added. The resulting reaction mixture was extracted with ethyl acetate, and the combined organics were washed with brine, dried with Na2SO4, filtered and concentrated under reduced pressure. The crude black oil was chromatographed ramping 0% EtOAc in hexanes to 25% over 5 min, then remaining at 5% for 15 min, then ramping to 100% over 5 min providing isolation of tert-butyl 4-(4-cyanophenyl)-5,6-dihydropyridine-1(2H)-carboxylate (390.00 mg, 84.8%).

reactant | tert-butyl 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-5,6-dihydropyridine-1(2H)-carboxylate | 1617 μmol, 500.00 mg | CC1(OB(OC1(C)C)C1=CCN(CC1)C(=O)OC(C)(C)C)C | C16H28BNO4
reactant | dioxane | 1617 μmol, 3.2 mL | O1CCOCC1 | C4H8O2
reactant | Na2CO3 | 647 μmol, 3.234 mL | C(=O)([O-])[O-].[Na+].[Na+]
reactant | 4-bromobenzonitrile | 1617 μmol, 294.3 mg | BrC1=CC=C(C#N)C=C1 | C7H4BrN
catalyst | PdCl2(dppf) CH2Cl2 | 162 μmol, 132.1 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2].C(Cl)Cl
solvent | water | O | H2O
product | tert-butyl 4-(4-cyanophenyl)-5,6-dihydropyridine-1(2H)-carboxylate | 390.00 mg, 84.8% | C(#N)C1=CC=C(C=C1)C1=CCN(CC1)C(=O)OC(C)(C)C | C17H20N2O2
